US20010047031A1
(RS)-2-Fluoro-4-phenyl-butyric acid (0.66 g, 3.63 mmol) was dissolved in DMF (5 ml) and carbonyldiimidazole (0.64 g, 3.8 mmol) was added portionwise. After evolution of CO2 has ceased, the reaction mixture was warmed to 55° C. for 20 minutes and then cooled to room temperature. A mixture of triethylamine (0.46 ml, 3.3 mmol) and (3R)-4-(pyrrolidin-3-ylsulfanyl)-phenol trifluoroacetic acid (1.02 g, 3.3 mmol) in DMF (5 ml) was added. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo and the residue taken up in H2O (30 ml).The mixture was extracted with ethylacetate (3×20 ml).The combined organic phases were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed over silica gel (CH2Cl2-MeOH, 99:1) to provide (2RS,3R)-2-fluoro-1-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-4-phenyl-butan-1-one (1.12 g, 95%) as light yellow oil, MS: m/e=359.1(M+).

reactant | (RS)-2-Fluoro-4-phenyl-butyric acid | 3.63 mmol, 0.66 g | FC(C(=O)O)CCC1=CC=CC=C1 | C10H11FO2
reactant | carbonyldiimidazole | 3.8 mmol, 0.64 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | (3R)-4-(pyrrolidin-3-ylsulfanyl)-phenol trifluoroacetic acid | 3.3 mmol, 1.02 g | FC(C(=O)O)(F)F.N1C[C@@H](CC1)SC1=CC=C(C=C1)O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (2RS,3R)-2-fluoro-1-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-4-phenyl-butan-1-one | 1.12 g, 95% | FC(C(=O)N1C[C@@H](CC1)SC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H22FNO2S
